US05106839
9.1 ml of benzylamine were added to a solution of 7.26 g of 2-(2-bromoethoxy)-1-[2-(2-bromoethyl)phenoxy]-4-chlorobenzene in 714 ml of xylene and the mixture was heated to reflux for 24 h. After cooling the precipitate was removed with suction, washed with toluene and the filtrate was evaporated to dryness. The residue was chromatographed over silica with toluene-ethanol (9:1) to yield 4,17 g (64%) of 3-chloro-7,8,9,10-tetrahydro-8-phenylmethyl-6H-dibenzo[b,j][1,4,7]dioxaazacycloundecine. Rf 0.7 (silica; toluene-ethanol 8:2).

reactant | benzylamine | 9.1 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | 2-(2-bromoethoxy)-1-[2-(2-bromoethyl)phenoxy]-4-chlorobenzene | 7.26 g | BrCCOC1=C(C=CC(=C1)Cl)OC1=C(C=CC=C1)CCBr | C16H15Br2ClO2
solvent | xylene | 714 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 3-chloro-7,8,9,10-tetrahydro-8-phenylmethyl-6H-dibenzo[b,j][1,4,7]dioxaazacycloundecine | 4,17 g, 64% | ClC1=CC2=C(OC3=C(CCN(CCO2)CC2=CC=CC=C2)C=CC=C3)C=C1 | C23H22ClNO2
